US07259175B2
3-(2-Methyl-4-{[5-methyl-2-(4-trifluoromethyl-phenyl)-oxazol-4-ylmethyl]-carbamoyl}-phenyl)-propionic acid ethyl ester
To a mixture of C-[5-methyl-2-(4-trifluoromethyl-phenyl)-oxazol-4-yl]-methylamine (0.2 g, 0.78 mmol) and 4-(2-carboxy-ethyl)-3-methyl-benzoic acid (0.173 g, 0.78 mmol) and DMAP (5 mg) in methylene chloride (5 mL) are added triethyl amin (0.12 mL, 0.86 mml) and EDCI (150 mg, 0.78 mmol) at room temperature. After stirred for 3 hrs, diluted with chloroform, washed with water, 1N HCl and 2 N NaOH aqueous. Concentration and column chromatography on silica gel gave the title compound (240 mg).

reactant | C-[5-methyl-2-(4-trifluoromethyl-phenyl)-oxazol-4-yl]-methylamine | 0.78 mmol, 0.2 g | CC1=C(N=C(O1)C1=CC=C(C=C1)C(F)(F)F)CN | C12H11F3N2O
reactant | 4-(2-carboxy-ethyl)-3-methyl-benzoic acid | 0.78 mmol, 0.173 g | C(=O)(O)CCC1=C(C=C(C(=O)O)C=C1)C | C11H12O4
reactant | triethyl amin | 0.12 mL | C(C)N(CC)CC | C6H15N
reactant | EDCI | 0.78 mmol, 150 mg | CCN=C=NCCCN(C)C | C8H17N3
catalyst | DMAP | 5 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 3-(2-Methyl-4-{[5-methyl-2-(4-trifluoromethyl-phenyl)-oxazol-4-ylmethyl]-carbamoyl}-phenyl)-propionic acid ethyl ester | 240 mg | C(C)OC(CCC1=C(C=C(C=C1)C(NCC=1N=C(OC1C)C1=CC=C(C=C1)C(F)(F)F)=O)C)=O | C25H25F3N2O4
